US07214800B2
To a solution of 2-(1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one (WO 0130768) (1.09 g, 3.19 mmol) and (1,1-dimethyl-2-oxo-ethyl)-carbamic acid tert-butyl ester (Seki et. al. Chem. Pharm. Bull. 1996, 44, 2061) (0.59 g, 3.19 mmol) in dichloromethane (80 mL) was added sodium triacetoxyborohydride (1.01 g, 4.79 mmol). The resultant cloudy mixture was maintained at ambient temperature for 4 hours, at which time it was quenched with brine (75 mL) and stirred vigorously for 10 minutes. The aqueous layer was extracted with dichloromethane (50 mL) and the combined extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give (±)-{2-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester (1.62 g, 99%) as a yellow solid which was used in the subsequent step without purification.

reactant | 2-(1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one | 3.19 mmol, 1.09 g | NC(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl | C19H20ClN3O
reactant | (1,1-dimethyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 3.19 mmol, 0.59 g | C(C)(C)(C)OC(NC(C=O)(C)C)=O | C9H17NO3
reactant | sodium triacetoxyborohydride | 4.79 mmol, 1.01 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | (±)-{2-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | 1.62 g, 99% | C(C)(C)(C)OC(NC(CNC(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)(C)C)=O | C28H37ClN4O3
